US08106064B2
3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde (102):
To a stirred solution of (3-dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methanone (3.13 g, 8.36 mmol) in chloroform (30 ml) at room temperature, was added hydrogen chloride in methanol solution [prepared from methanol (30 ml) and acetyl chloride (4 ml)]. After stirring for 2 hr., the mixture was evaporated in vacuo. The residue was dissolved in ether, washed with aqueous saturated sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, i) MC, ii) MC:EA (9:1)) to afford 2.3 g (84%) of a white solid. m.p. 111-113° C.; 1H NMR (300 MHz, CDCl3) δ 1.20 (6H, d, J=7.2 Hz), 2.50 (3H, s), 2.85 (1H, m), 3.93 (3H, s), 4.08 (3H, s), 7.94 (1H, s), 7.99 (1H, s), 8.08 (1H, s), 10.02 (1H, s).

reactant | (3-dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methanone | 8.36 mmol, 3.13 g | COC(C=1C=C(C=C(C1)C)C(=O)C1=NC(=NC(=C1C(C)C)OC)OC)OC | C20H26N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 30 ml | CO | CH4O
product | 3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde | 2.3 g, 84% | C(C)(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=O)C=C(C1)C | C18H20N2O4
